US08058276B2
Step 4.2: 6-(Pyrimidin-4-yloxy)-benzo[d]isoxazole-3-carboxylic acid ethyl ester
300 mg (0.938 mMol) 6-(2-chloro-pyrimidin-4-yloxy)-benzo[d]isoxazole-3-carboxylic acid ethyl ester in 3 ml DMF and 262 μl (1.88 mMol) Et3N are hydrogenated in presence of 120 mg Pd/C (10%; Engelhard 4505). The catalyst is filtered off, the filtrate concentrated, the residue re-dissolved in EtOAc and water, the aq. layer separated off and extracted with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated. Chromatography (Combi Flash; hexane/EtOAc 9:1→4:1) gives the title compound: MS: [M+1]+=286; TLC(hexane/EtOAc 1:1): Rf=0.30.

reactant | 6-(2-chloro-pyrimidin-4-yloxy)-benzo[d]isoxazole-3-carboxylic acid ethyl ester | 0.938 mMol, 300 mg | C(C)OC(=O)C1=NOC2=C1C=CC(=C2)OC2=NC(=NC=C2)Cl | C14H10ClN3O4
reactant | Et3N | 1.88 mMol, 262 μl | CCN(CC)CC | C6H15N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | Pd/C | 120 mg | [Pd] | Pd
product | 6-(Pyrimidin-4-yloxy)-benzo[d]isoxazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NOC2=C1C=CC(=C2)OC2=NC=NC=C2 | C14H11N3O4
